US07307076B2
b) 8-{2-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-6-hydroxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one
280 mg (0.57 mmol) 6-benzyloxy-8-{2-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one are dissolved in 7 mL methanol and hydrogenated with palladium on charcoal (10%) at ambient temperature. Then the catalyst is separated off and the filtrate is freed from the solvent. The residue is dissolved in dichloromethane and precipitated by the addition of methanol/water. White solid.

reactant | 6-benzyloxy-8-{2-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 0.57 mmol, 280 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(C(O2)(C)C)=O)C1)C(CNC(CC1=CC=C(C=C1)F)(C)C)O | C29H33FN2O4
solvent | methanol | 7 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 8-{2-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-6-hydroxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | FC1=CC=C(C=C1)CC(C)(C)NCC(O)C1=CC(=CC=2NC(C(OC21)(C)C)=O)O | C22H27FN2O4
